US04710573
4-[1-(4-Fluorophenyl)-1H-indazol-3-yl]piperidine-1-carbonitrile
To a stirred mixture of cyanogen bromide (21.67 g, 0.204 moles) and potassium carbonate (33.2 g, 0.24 moles) in dimethyl sulfoxide (400 ml) was added dropwise a solution of 1-(4-fluorophenyl)-3-(1-methyl-4-piperidinyl)-1H-indazole (59.45 g, 0.192 moles), the free base of example 67, in hot dimethyl sulfoxide (375 ml). The reaction was stirred at ambient temperature for 4 days and then poured into H2O (500 ml). The product was extracted (dichloromethane), dried (MgSO4), and concentrated to yield 64 g of a solid. The product was recrystallized twice from isopropyl alcohol yield 35.7 g (58%) of 4-[1-(4-fluorophenyl)-1H-indazol-3-yl]piperidine-1-carbonitrile, mp 108°-110° C.

reactant | cyanogen bromide | 0.204 moles, 21.67 g | N#CBr | CBrN
reactant | potassium carbonate | 0.24 moles, 33.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-fluorophenyl)-3-(1-methyl-4-piperidinyl)-1H-indazole | 0.192 moles, 59.45 g | FC1=CC=C(C=C1)N1N=C(C2=CC=CC=C12)C1CCN(CC1)C | C19H20FN3
reactant | H2O | 500 ml | O | H2O
solvent | dimethyl sulfoxide | 400 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 375 ml | CS(=O)C | C2H6OS
product | 4-[1-(4-Fluorophenyl)-1H-indazol-3-yl]piperidine-1-carbonitrile | 64 g | FC1=CC=C(C=C1)N1N=C(C2=CC=CC=C12)C1CCN(CC1)C#N | C19H17FN4
